US06417212B1
C. 4-Butyl-3-[2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethoxy]phenol
A solution of 4-[2-(5-Benzyloxy-2-but-1-enylphenoxy)ethyl]-5-methyl-2-biphenyl-4-yl-oxazole (0.34 mmol) in ethanol (10 mL) was treated with 5% Pd/C (30 mg) under a balloon containing hydrogen at ambient temperature for 24 h. The mixture was filtered and concentrated in vacuo to give a white solid.

reactant | 4-[2-(5-Benzyloxy-2-but-1-enylphenoxy)ethyl]-5-methyl-2-biphenyl-4-yl-oxazole | 0.34 mmol | C(C1=CC=CC=C1)OC=1C=CC(=C(OCCC=2N=C(OC2C)C2=CC=C(C=C2)C2=CC=CC=C2)C1)C=CCC | C35H33NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 4-Butyl-3-[2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethoxy]phenol | C(CCC)C1=C(C=C(C=C1)O)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1 | C28H29NO3
